US04436748
A mixture of 14.7 g of 2-cyclohexyl-6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene, 90 ml of glacial acetic acid and 21 ml of boron trifluoride etherate is warmed on a steam bath until it becomes homogeneous and then stirred for one hour. To the reaction mixture is added 100 ml of cold 10% sodium hydroxide solution. The mixture is further basified with 50% sodium hydroxide solution and extracted with three 230 ml-portions of ether. The organic extracts are dried over anhydrous magnesium sulfate, filtered and evaporated. Recrystallization of the residue from ether-hexane gives 9.0 g of 6,7-dichloro-2-cyclohexyl-5-methoxybenzo[b]thiophene as off-white crystals, mp 60°.

reactant | 2-cyclohexyl-6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene | 14.7 g | C1(CCCCC1)C1C(C2=C(S1)C(=C(C(=C2)OC)Cl)Cl)O | C15H18Cl2O2S
reactant | boron trifluoride etherate | 21 ml | B(F)(F)F.CCOCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 6,7-dichloro-2-cyclohexyl-5-methoxybenzo[b]thiophene | 9.0 g | ClC=1C(=CC2=C(SC(=C2)C2CCCCC2)C1Cl)OC | C15H16Cl2OS
